US07446204B2
2-[(tert-butoxy)-N-methylcarbonylamino]-N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy) phenyl]methyl}(4-piperidyl))phenyl]acetamide was dissolved in CH2Cl2 (15 mL) and trifluoroacetic acid (5 mL) was added dropwise to the stirred solution. Stirring was continued for 30 minutes then the reaction mixture was concentrated in vacuo to give a gum. This was partitioned between CH2Cl2 (2×30 mL) and saturated aqueous NaHCO3 (30 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo to give the free base. This was dissolved in methanolic hydrogen chloride (1.6 M, 5 mL), and concentrated in vacuo to yield 2-(methylamino)-N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl]acetamide dihydrochloride (292 mg, 88% yield) as a white solid. LCMS (method A): 7.35 min, 498.3 (M+H)+; 1H NMR (D6-DMSO) δ 11.20 (br s, 1H), 10.68 (s, 1H), 9.03 (m, 2H), 7.84 (td, J=10.7, 7.7 Hz, 1H), 7.67 (m, 2H), 7.59 (dt, J=11.0, 8.0 Hz, 1H), 7.40 (m, 2H), 7.13 (d, J=8.5 Hz, 1H), 7.09 (m, 2H), 4.27 (d, J=5.1 Hz, 2H), 3.90 (t, J=5.7 Hz, 2H), 3.39 (d, J=11.8 Hz, 2H), 3.06 (m, 2H), 2.95 (m, 1H), 2.61 (t, J=5.4 Hz, 3H), 2.26 (s, 3H), 2.04 (m, 2H,), 1.86 (d, J=13.4 Hz, 2H).

reactant | 2-[(tert-butoxy)-N-methylcarbonylamino]-N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy) phenyl]methyl}(4-piperidyl))phenyl]acetamide | C(C)(C)(C)ON(C(=O)C)CC(=O)NC1=CC(=C(C=C1)C)C1CCN(CC1)CC1=CC=C(C=C1)OC1=C(C=C(C(=C1)F)F)F | C33H38F3N3O4
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | hydrogen chloride | 1.6 M, 5 mL | Cl | ClH
product | 2-(methylamino)-N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl]acetamide dihydrochloride | 292 mg, 88% yield | Cl.Cl.CNCC(=O)NC1=CC(=C(C=C1)C)C1CCN(CC1)CC1=CC=C(C=C1)OC1=C(C=C(C(=C1)F)F)F | InChI=1S/C28H30F3N3O2.2ClH/c1-18-3-6-21(33-28(35)16-32-2)13-23(18)20-9-11-34(12-10-20)17-19-4-7-22(8-5-19)36-27-15-25(30)24(29)14-26(27)31;;/h3-8,13-15,20,32H,9-12,16-17H2,1-2H3,(H,33,35);2*1H
